US07112582B2
Step 2: 4,5,6,7-Tetrahydropyrazolo[1,5-a]pyridine-2-carboxylic acid ethylester:
ethyl propiolate (804 mg) was added to the o-xylene (15 mL) solution of tetrahydropyridino[1,2-c][1,2,3]oxadiazolone (1.04 g) under a nitrogen atmosphere and refluxed for 16 h. The solution was concentrated under a reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with n-hexane-AcOEt (2/1–1/1). The titled compound was obtained as yellow oil (871 mg, 65%), and 4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine-3-carboxylic acid ethyl ester was obtained as yellow oil (345 mg, 26%).

reactant | ethyl propiolate | 804 mg | C(C#C)(=O)OCC | C5H6O2
reactant | tetrahydropyridino[1,2-c][1,2,3]oxadiazolone | 1.04 g | N1OC(C2N1CCCC2)=O | C6H10N2O2
solvent | o-xylene | 15 mL | CC=1C=CC=CC1C | C8H10
product | 4,5,6,7-Tetrahydropyrazolo[1,5-a]pyridine-2-carboxylic acid ethylester | C(C)OC(=O)C1=NN2C(CCCC2)=C1 | C10H14N2O2
